US07977482B2
Step 1: Synthesis of 2-{[2-{(E)-[4-(diethylamino)phenyl]diazenyl}-4-(4-methyl-1-piperazinyl)-1,3-thiazol-5-yl]methylene}-1H-indene-1,3(2H)-dione
1.00 g (2.20 mmol) 2-[(4-chloro-2-{(E)-[4-(diethylamino)phenyl]diazenyl}-1,3-thiazol-5-yl)methylene]-1H-indene-1,3(2H)-dione and 0.30 g (2.70 mmol) 1-methylpiperazine were dissolved in 40 ml tetrahydrofurane (THF) and heated under stirring for 5 hours when thin layer chromatography (TLC) analysis indicated complete consumption of the starting material. After cooling to room temperature the formed precipitate was filtered off, washed with THF and dried in vacuum at 40° C. to obtain a dark green powder.

reactant | 2-[(4-chloro-2-{(E)-[4-(diethylamino)phenyl]diazenyl}-1,3-thiazol-5-yl)methylene]-1H-indene-1,3(2H)-dione | 2.20 mmol, 1.00 g | ClC=1N=C(SC1C=C1C(C2=CC=CC=C2C1=O)=O)\N=N\C1=CC=C(C=C1)N(CC)CC | C23H19ClN4O2S
reactant | 1-methylpiperazine | 2.70 mmol, 0.30 g | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
product | 2-{[2-{(E)-[4-(diethylamino)phenyl]diazenyl}-4-(4-methyl-1-piperazinyl)-1,3-thiazol-5-yl]methylene}-1H-indene-1,3(2H)-dione | C(C)N(C1=CC=C(C=C1)/N=N/C=1SC(=C(N1)N1CCN(CC1)C)C=C1C(C2=CC=CC=C2C1=O)=O)CC | C28H30N6O2S
